US07049310B2
b) 7-Fluoro-1-methyl-1H-indole-3-carboxaldehyde
According to the procedure of Preparation 9 (a), except substituting 7-fluoro-1H-indole-3-carboxaldehyde (0.5 g, 3.1 mmole) for the ethyl indole-2-carboxylate, the title compound (0.23 g, 43%)was prepared as a viscous oil: MS (ES) m/e 178 (M+H)+.

reactant | 7-fluoro-1H-indole-3-carboxaldehyde | 3.1 mmole, 0.5 g | FC=1C=CC=C2C(=CNC12)C=O | C9H6FNO
reactant | ethyl indole-2-carboxylate | N1C(=CC2=CC=CC=C12)C(=O)OCC | C11H11NO2
product | 7-Fluoro-1-methyl-1H-indole-3-carboxaldehyde | 0.23 g, 43% | FC=1C=CC=C2C(=CN(C12)C)C=O | C10H8FNO
